US04695581
1.6 g of 60% sodium hydride was suspended in 50 ml of dimethylformamide, and under ice cooling, 5-hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole was added. After stirring for 30 minutes, 2.8 g of 2-diethylaminoethylbromide hydrobromide was added. The mixture was stirred for 2 hours. The reaction mixture was poured into cold water, and extracted with ethyl acetate. The extract was purified by silica gel column chromatography, and then subjected to thin-layer chromatography to give 5-(2-diethylaminoethoxy)-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole.

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | 5-hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole | OC=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)O)C)C | C17H17NO2
reactant | 2-diethylaminoethylbromide hydrobromide | 2.8 g | Br.C(C)N(CCBr)CC
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(2-diethylaminoethoxy)-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole | C(C)N(CCOC=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)O)C)C)CC | C23H30N2O2
